US07572809B2
Similar procedure as described in example 2c was used, starting from 2-Cyanomethyl-4-fluoro-5-(2-methoxy-ethoxy)-benzoic acid and 3-amino-5-methylpyrazole to give 6-Fluoro-7-(2-methoxy-ethoxy)-3-(5-methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one. LC-MS: m/e 333 (MH+).

reactant | 2-Cyanomethyl-4-fluoro-5-(2-methoxy-ethoxy)-benzoic acid | C(#N)CC1=C(C(=O)O)C=C(C(=C1)F)OCCOC | C12H12FNO4
reactant | 3-amino-5-methylpyrazole | NC1=NNC(=C1)C | C4H7N3
product | 6-Fluoro-7-(2-methoxy-ethoxy)-3-(5-methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one | FC=1C=C2C=C(NC(C2=CC1OCCOC)=O)NC1=NNC(=C1)C | C16H17FN4O3
